US09358231B2
A. Ethyl 2-methyl-5-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamido)benzoate
To a solution of ethyl 5-amino-2-methylbenzoate (500 mg, 2.79 mmol) and TEA (0.78 mL, 5.58 mmol) in dried THF (9 mL) was added 4-(chloromethyl)-3-(trifluoromethyl)benzoyl chloride (714 mg, 2.79 mmol). The reaction mixture was stirred for 5 hours at room temperature after which, it was concentrated under reduced pressure. To a solution of the reaction mixture in acetonitrile (10 mL) were added methyl piperazine (558 mg, 5.58 mmol) and K2CO3 (1.1 g, 8.38 mmol). The reaction mixture was stirred for 8 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over MgSO4, celite filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography using (3% to 7% Methanol/CH2C12) as a solvent to afford title compound (820 mg, 63% yield). MS m/z: 464 [M+1].

reactant | ethyl 5-amino-2-methylbenzoate | 2.79 mmol, 500 mg | NC=1C=CC(=C(C(=O)OCC)C1)C | C10H13NO2
reactant | 4-(chloromethyl)-3-(trifluoromethyl)benzoyl chloride | 2.79 mmol, 714 mg | ClCC1=C(C=C(C(=O)Cl)C=C1)C(F)(F)F | C9H5Cl2F3O
reactant | methyl piperazine | 5.58 mmol, 558 mg | CN1CCNCC1 | C5H12N2
reactant | K2CO3 | 8.38 mmol, 1.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Ethyl 2-methyl-5-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamido)benzoate | 820 mg, 63% yield | CC1=C(C(=O)OCC)C=C(C=C1)NC(C1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)=O | C24H28F3N3O3
